US06271385B1
N-[3-(4-t-Butylphenyl)-2-methylpropyl]-N,1-dimethyl-1H-pyrazol-4-ylmethylamine (I-17)
Route B-2: After suspending 200 mg (3.2 mmol) of sodium cyanoborohydride in 2 ml of absolute methanol, 380 mg (1.7 mmol) of 3-(4-t-butylphenyl)-N,2-dimethylpropylamine (IV-1) was added thereto. Subsequently, to this was added a solution of 170 mg (1.6 mmol) 4-formyl-1-methylpyrazole/2 ml absolute methanol by portions, the pH was adjusted to 7 with acetic acid, and then stirring was conducted at room temperature for 8 h.

reactant | sodium cyanoborohydride | 3.2 mmol, 200 mg | C(#N)[BH3-].[Na+]
reactant | 3-(4-t-butylphenyl)-N,2-dimethylpropylamine | 1.7 mmol, 380 mg | C(C)(C)(C)C1=CC=C(C=C1)CC(CNC)C | C15H25N
reactant | 4-formyl-1-methylpyrazole | 1.6 mmol, 2 ml, 170 mg | C(=O)C=1C=NN(C1)C | C5H6N2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 2 ml | CO | CH4O
product | N-[3-(4-t-Butylphenyl)-2-methylpropyl]-N,1-dimethyl-1H-pyrazol-4-ylmethylamine | C(C)(C)(C)C1=CC=C(C=C1)CC(CN(C)CC=1C=NN(C1)C)C | C20H31N3
